US08357679B2
B: 1-(2,6-Difluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(pyridin-4-yl)urea
(4-Amino-3,5-difluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (0.342 mmol, 170 mg) and phenyl pyridin-4-ylcarbamate (0.513 mmol, 110 mg) were combined in dioxane (2 mL) and heated to 80° C. overnight in a reactivial. The reaction mixture was concentrated under vacuum and the residue was purified by column chromatography (dichloromethane—4% methanol/dichloromethane) to afford title compound (45 mg). MS (ESI) m/z 618.3 [M+H]+

reactant | (4-Amino-3,5-difluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.342 mmol, 170 mg | NC1=C(C=C(C=C1F)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H19F8N3O2
reactant | phenyl pyridin-4-ylcarbamate | 0.513 mmol, 110 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(2,6-Difluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(pyridin-4-yl)urea | 45 mg | FC1=C(C(=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F)NC(=O)NC1=CC=NC=C1 | C27H23F8N5O3
